US07956069B2
The preparation of {(1S,2S)-2-[(tert-butoxycarbonyl)amino]cyclohexyl}methyl methanesulfonate
tert-butyl [(1S,2S)-2-(hydroxymethyl)cyclohexyl]carbamate (1.3 g, 5.68 mmol) was dissolved in dichloromethane (10 mL) and MsCl (0.52 mL, 6.75 mmol) was added drop wise at 0° C. Triethylamine (1 mL) was then added and the mixture stirred for 2 hours. The reaction mixture was quenched with ice and diluted in dichloromethane. Washed with a saturated solution of NaHCO3 and brine, dried and concentrated in vacuo to provide the tile compound as brown solid (1.8 g). MS (M+1): 308.16

reactant | tert-butyl [(1S,2S)-2-(hydroxymethyl)cyclohexyl]carbamate | 5.68 mmol, 1.3 g | OC[C@@H]1[C@H](CCCC1)NC(OC(C)(C)C)=O | C12H23NO3
reactant | MsCl | 6.75 mmol, 0.52 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | Triethylamine | 1 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | {(1S,2S)-2-[(tert-butoxycarbonyl)amino]cyclohexyl}methyl methanesulfonate | 1.8 g | CS(=O)(=O)OC[C@@H]1[C@H](CCCC1)NC(=O)OC(C)(C)C | C13H25NO5S
